US05169838
Preparation of methyl 3-(2-hydroxy-6-(dimethylaminocarbonylthio)phenyl)but-2-enoate
4.4 ml of sodium methylate (8% of Na (w/v) in methanol) are added under an inert atmosphere to a solution of 2 g (7.6.10-3 mol) of S-(4-methyl-2-oxo-2H-1-benzopyran-5-yl) dimethylthiocarbamate in 20 ml of methanol. After 4 hours at room temperature, the reaction medium is hydrolyzed in an ice/hydrochloric acid mixture and the precipitate formed is filtered off to give 1.7 g (yield: 76%) of the expected product.

reactant | sodium methylate | 4.4 ml | C[O-].[Na+]
reactant | S-(4-methyl-2-oxo-2H-1-benzopyran-5-yl) dimethylthiocarbamate | 2 g | CN(C(SC1=CC=CC2=C1C(=CC(O2)=O)C)=O)C | C13H13NO3S
solvent | methanol | 20 ml | CO | CH4O
product | methyl 3-(2-hydroxy-6-(dimethylaminocarbonylthio)phenyl)but-2-enoate | 1.7 g, yield: 76% | OC1=C(C(=CC=C1)SC(=O)N(C)C)C(=CC(=O)OC)C | C14H17NO4S
